US04956359
3-(3,4-Dichlorophenoxy)-N-(2-propynyl)-1-azetidinecarboxamide
A stirred mixture of 5.6 g (0.02 mole) of 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride and 3 g (0.02 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated with 1.1 g (0.02 mole) of 2-propynylamine added dropwise from a needle syringe then stirred for an additional 18 hr. The reaction mixture was diluted with 200 ml of water and the resulting solid collected by filtration to yield 7.1 g of crude product. Recrystallization from isopropyl ether yielded 4.98 g (83.2%) of pale beige crystals, m.p. 119°-121° C.

reactant | 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5.6 g | ClC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1Cl | C10H8Cl3NO2
reactant | potassium carbonate | 0.02 mole, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propynylamine | 0.02 mole, 1.1 g | C(C#C)N | C3H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(3,4-Dichlorophenoxy)-N-(2-propynyl)-1-azetidinecarboxamide | 4.98 g, 83.2% | ClC=1C=C(OC2CN(C2)C(=O)NCC#C)C=CC1Cl | C13H12Cl2N2O2
